US05708008
5-(ethoxyacetyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole
Beginning with 12.0 mg (0.05 mMol) 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole and 11.0 μL (0.10 mMol) ethoxyacetic acid, 15.2 mg (97%) of the title compound were recovered.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole | 0.05 mMol, 12.0 mg | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | ethoxyacetic acid | 0.10 mMol, 11.0 μL | C(C)OCC(=O)O | C4H8O3
product | 5-(ethoxyacetyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole | 15.2 mg, 97% | C(C)OCC(=O)NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C18H25N3O2
